US06936612B2
4-{6-[8-Cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (0.400 g, 0.663 mmol) was dissolved in ethyl acetate (10 mL) and 6 N HCl (10 mL) and stirred at room temperature for 2 hours. The solvent was evaporated to give a yellow solid, which was dried in a vacuum oven for 5 hours at 50° C. The solid was triturated with EtOH (20 mL) and filtered to give 6-acetyl-8-cyclopentyl-2-[5-(3,3-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt as a yellow solid (0.120 g, 38.1%). 1H NMR δ (400 MHz, DMSO-d6) 9.15 (s, 2H), 8.93 (s, 1H), 8.04 (d, J=3.2 Hz, 1H), 7.82 (d, J=9.1 Hz, 1H), 7.64 (m, 1H), 5.78 (m, 1H), 3.31 (m, 2H), 3.24 (m, 2H), 3.18 (s, 2H), 2.38 (s, 3H), 2.28 (s, 3H), 2.18 (m, 2H), 1.85 (m, 2H), 1.73 (m, 2H), 1.54 (m, 2H), 1.35 (s, 6H). MS (APCI) Calc'd for M+H: 476.3. Found: 476.1. Anal. Calc'd for C26H33N7O2 4.38 HCl: C, 49.16; H, 5.93; N, 15.43. Found; C, 49.55; H, 6.80; N, 14.76.

reactant | 4-{6-[8-Cyclopentyl-6-(1-ethoxy-vinyl)-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-2,2-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.663 mmol, 0.400 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)C(=C)OCC)=O)C2CCCC2)(C)C | C33H45N7O4
reactant | HCl | 6 N, 10 mL | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 6-acetyl-8-cyclopentyl-2-[5-(3,3-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 0.120 g, 38.1% | Cl.C(C)(=O)C1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CC(NCC2)(C)C)N(C1=O)C1CCCC1)C | InChI=1S/C26H33N7O2.ClH/c1-16-20-14-28-25(30-21-10-9-19(13-27-21)32-12-11-29-26(3,4)15-32)31-23(20)33(18-7-5-6-8-18)24(35)22(16)17(2)34;/h9-10,13-14,18,29H,5-8,11-12,15H2,1-4H3,(H,27,28,30,31);1H
